US05516774
2-Methylphenylacetyl chloride
A solution of 2.0 g of o-tolylacetic acid in 27 ml of thionyl chloride is heated at reflux for 1 hour. The volatiles are evaporated in vacuo to give a residue which is concentrated from toluene three times and dried under vacuum to give 2.1 g of the desired product as a light brown oil.

reactant | o-tolylacetic acid | 2.0 g | C1(=C(C=CC=C1)CC(=O)O)C | C9H10O2
reactant | thionyl chloride | 27 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-Methylphenylacetyl chloride | 2.1 g | CC1=C(C=CC=C1)CC(=O)Cl | C9H9ClO
